US08981111B2
A solution of (1-methyl-1H-imidazol-5-yl)(2-thienyl)methanone (10.14 g, 52.7 mmol) and hydroxylamine hydrochloride (12.8 g, 185 mmol) in pyridine (60 mL) was stirred for 9 h at 50° C., then for 8 h at 60° C. Hydroxylamine hydrochloride (6.40 g, 92 mmol) was added again and the reaction mixture was stirred for 6 h at 110° C. After removal of the solvent in vacuo and addition of water (200 mL), the pH of the aqueous solution was adjusted to pH>7 by addition of aq. NaOH (1 M), which resulted in precipitation of a yellow solid. After filtration, the solid was washed with water and pentane, and dried in vacuo to afford a first crop of N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-(2-thienyl)methanimine. The combined aqueous phases were extracted with dichloromethane, the combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified recrystallized from diisopropylether to afford a second crop of N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-(3-thienyl)methanimine. The crops were combined and recrystallized from diisopropylether to afford final N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-(2-thienyl)methanimine [8.22 g, yield 71%; HPLC/MS: m/z=208 (M+H); log P(HCOOH)=0.45].

reactant | (1-methyl-1H-imidazol-5-yl)(2-thienyl)methanone | 52.7 mmol, 10.14 g | CN1C=NC=C1C(=O)C=1SC=CC1 | C9H8N2OS
reactant | hydroxylamine hydrochloride | 185 mmol, 12.8 g | Cl.NO
reactant | Hydroxylamine hydrochloride | 92 mmol, 6.40 g | Cl.NO
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-(2-thienyl)methanimine | ON=C(C=1SC=CC1)C1=CN=CN1C | C9H9N3OS
